US05488140
0.68 g (1.49 mmol) of 5-benzyloxy-4-diisopropylphosphonomethyl-2-formylamino-pent-3-enoic acid ethyl ester is dissolved in 10 ml of dichloromethane, and 0.8 ml (6 mmol) of trimethylbromosilane is added dropwise at room temperature. The mixture is left to stand at room temperature for 6 hours, 10 ml of ethanol are added dropwise, the mixture is left to stand for a further 18 hours and is concentrated by evaporation, the residue is dissolved in 5 ml of ethanol, and a mixture of ml of propylene oxide and 5 ml of ethanol is added dropwise. A suspension forms, which is stirred at room temperature for 2 hours and is then filtered with suction. Drying yields 2-amino-5-benzyloxy-4-phosphonomethyl-pent-3-enoic acid ethyl ester having a melting point of 218°-220° (decomp.).

reactant | 5-benzyloxy-4-diisopropylphosphonomethyl-2-formylamino-pent-3-enoic acid ethyl ester | 1.49 mmol, 0.68 g | C(C)OC(C(C=C(COCC1=CC=CC=C1)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C22H34NO7P
reactant | trimethylbromosilane | 6 mmol, 0.8 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | propylene oxide | ml | C1C(C)O1 | C3H6O
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-amino-5-benzyloxy-4-phosphonomethyl-pent-3-enoic acid ethyl ester | C(C)OC(C(C=C(COCC1=CC=CC=C1)CP(=O)(O)O)N)=O | C15H22NO6P
